US05552420
To a cooled (0° C.) solution of ethyl 3-(1-methyl-2-ethylimidazol-5-yl)propionate (1.75 g, 8.33 mmol) in 30 ml of THF was added 4.6 ml (4.6 mmol) of 1M LAH solution in THF at 0° C. After stirring at 0° C. for 15 min, the mixture was allowed to warm and stirred at 20° C. for 0.7 h. Rochelle salt solution (equiv) was added and the mixture was stirred for 20 min. The aqueous mixture was extracted with methylene chloride and filtered. The organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica (10 cm column, methylene chloride/methanol, 6/1-6/1) followed by recrystallization from acetonitrile/ether and methylene chloride/hexane to afford 1.268 g (90%) of 5-(3-hydroxypropyl)-1-methyl-2-ethylimidazole, as a white solid, m.p. 69°-71° C.

reactant | ethyl 3-(1-methyl-2-ethylimidazol-5-yl)propionate | 8.33 mmol, 1.75 g | CN1C(=NC=C1CCC(=O)OCC)CC | C11H18N2O2
reactant | LAH | 4.6 mmol, 1M, 4.6 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5-(3-hydroxypropyl)-1-methyl-2-ethylimidazole | 1.268 g, 90% | OCCCC1=CN=C(N1C)CC | C9H16N2O
